US08053573B2
Synthesis of 3-hydroxy-5,6-bis(4-diethylaminophenyl)-1,2,4-triazine (JR18)
Semicarbazide hydrochloride (1.57 g, 14.2 mmol) and sodium acetate (1.41 g, 17.3 mmol) are added to a solution of 1,2-bis(4-diethylaminophenyl)-ethane-1,2-dione prepared according to example 2 (5 g, 14.2 mmol) in acetic acid (20 ml). The mixture is heated at reflux for 12 hours. After returning to ambient temperature, the reaction mixture is poured into water. The raw solid is collected by filtration and washed with water. The residue is recrystallized in acetic acid. After filtration and washing with water, 3 g (54%) of a yellow solid are obtained after drying. δH (200 MHz, CDCl3), 1.18 (t; 12H), 3.45 (q; 8H), 6.65 (d; J 7.8; 4H), 7.87 (d; J 7.8; 4H), 10.4 (s; 1H)

reactant | Semicarbazide hydrochloride | 14.2 mmol, 1.57 g | Cl.NNC(=O)N
reactant | sodium acetate | 17.3 mmol, 1.41 g | C(C)(=O)[O-].[Na+]
reactant | 1,2-bis(4-diethylaminophenyl)-ethane-1,2-dione | C(C)N(C1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)N(CC)CC)=O)CC | C22H28N2O2
reactant | water | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-hydroxy-5,6-bis(4-diethylaminophenyl)-1,2,4-triazine | OC=1N=NC(=C(N1)C1=CC=C(C=C1)N(CC)CC)C1=CC=C(C=C1)N(CC)CC | C23H29N5O
